US07709500B2
Step 2: 4-({1-[(2R)-3-Amino-2-hydroxypropyl]piperidin-4-yl}oxy)-2-chlorobenzonitrile
To a solution of the tert-butyl 4-(3-chloro-4-cyanophenoxy)piperidine-1-carboxylate (2.75 g, 9.09 mmol) in dichloromethane (20 ml) was added trifluoroacetic acid (20 ml) and the mixture stirred for 90 min. The solvents were evaporated and the residue azeotroped with toluene (2×20 ml) before dissolving in water (30 ml) and addition of sodium hydroxide to bring the solution to pH 11. The free base was extracted with DCM (5×100 ml). The organics were combined, dried over sodium sulfate and the solvent removed under reduced pressure to give a thick oil which was dissolved in DMF (30 ml) before addition of (2R)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate (2.35 g, 9.09 mmol) and triethylamine (2.54 ml, 18.18 mmol). The mixture was heated at 60° C. for 4 h before addition of sodium azide (1.36 g, 27.27 mmol). Heating was continued at 60° C. for a further 72 h. The reaction mixture was cooled and partitioned between water (50 ml) and ethyl acetate (100 ml). The organic layer was separated and the solvent removed under reduced pressure. The residue was dissolved in THF (20 ml) and water (2 ml) and triphenylphosphine (5.90 g, 22.72 mmol) added The mixture was heated at 60° C. for 16 h before dilution with ethyl acetate (100 ml). The solution was washed with 1N HCl (50 ml) and the aqueous layer was separated and adjusted to pH 11 with sodium hydroxide. The product was extracted with DCM (4×100 ml). The organics were combined and dried sodium over sulfate and the solvent removed under reduced pressure. The residue was purified by flash chromatography to give the title compound as a pale yellow solid (1.10 g).

reactant | tert-butyl 4-(3-chloro-4-cyanophenoxy)piperidine-1-carboxylate | 9.09 mmol, 2.75 g | ClC=1C=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1C#N | C17H21ClN2O3
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (2R)-oxiran-2-ylmethyl-3-nitrobenzenesulfonate | 9.09 mmol, 2.35 g | O1[C@H](C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C9H9NO6S
reactant | triethylamine | 18.18 mmol, 2.54 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 27.27 mmol, 1.36 g | [N-]=[N+]=[N-].[Na+]
reactant | triphenylphosphine | 22.72 mmol, 5.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
product | 4-({1-[(2R)-3-Amino-2-hydroxypropyl]piperidin-4-yl}oxy)-2-chlorobenzonitrile | 1.10 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C#N)C=C1)Cl)O | C15H20ClN3O2
